US07314886B2
22.B. Synthesis of (1-Ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid
To a solution of (1-ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester (2.50 g, 8.7 mmol) in 1,4-dioxane was added a solution of lithium hydroxide monohydrate (1.50 g, 35.7 mmol) in water (5 mL). The mixture was stirred at room temperature overnight. It was neutralized with 5% HCl solution and extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography on silica gel provided 0.954 g (42%) of the title compound as a solid. mp. 135-136° C. 1H NMR (500 MHz, CDCl3) δ 10.0 (br, 1H), 8.55 (br, 1H), 7.51 (d, 1H), 7.34 (d, 1H), 7.18 (t, 1H), 7.12 (t, 1H), 4.12 (m, 1H), 4.06 (m, 1H), 3.01 (d, 1H), 2.99 (d, 1H), 2.85 (m, 2H), 2.10 (m, 1H), 2.03 (m, 1H), 0.86 (t, 3H); ESI (+) MS m/e=260 (MH+), ESI (−) MS m/e=258 (MH−).

reactant | (1-ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | 8.7 mmol, 2.50 g | C(C)OC(CC1(OCCC2=C1NC1=CC=CC=C21)CC)=O | C17H21NO3
reactant | lithium hydroxide monohydrate | 35.7 mmol, 1.50 g | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | (1-Ethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | 0.954 g, 42% | C(C)C1(OCCC2=C1NC1=CC=CC=C21)CC(=O)O | C15H17NO3
